US05104888
6-Acetoxy-2-(4-aminophenoxymethyl)-2-methyl-7-(1,1,3,3-tetramethylbutyl)chroman (Step F5)
Using Paar's hydrogenation apparatus, a mixture of 9.1 g of 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)-2H-chromene (prepared as described in Preparation 21), 2g of 10% w/w palladium-on-carbon and 150 ml of methanol was stirred for 10 hours under 3-5 atmospheres (about 3-5-bars) pressure of hydrogen. The catalyst was filtered off, and the filtrate was condensed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography, eluted with a 10:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | 6-acetoxy-2-methyl-2-(4-nitrophenoxymethyl)-7-(1,1,3,3-tetramethylbutyl)-2H-chromene | 9.1 g | C(C)(=O)OC=1C=C2C=CC(OC2=CC1C(CC(C)(C)C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C | C27H33NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 6-Acetoxy-2-(4-aminophenoxymethyl)-2-methyl-7-(1,1,3,3-tetramethylbutyl)chroman | C(C)(=O)OC=1C=C2CCC(OC2=CC1C(CC(C)(C)C)(C)C)(C)COC1=CC=C(C=C1)N | C27H37NO4
